US07994185B2
Step B: 2-Propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate
To a solution of methyl 3-(allyloxycarbonylamino)-2-fluorobenzoate (86.7 g, 342 mmol, 1 eq) in dry THF (500 mL) at −10° C., LiHMDS (1M in THF, 1198 mmol, 1198 mL, 3.5 eq) was added dropwise and the solution was allowed to stir for 1 h at 0° C. A solution of pyrimidine chloride (48.0 g, 376 mmol, 1.2 eq) in THF (200 mL) was then added dropwise to the solution of ester and base at 0° C. over 20 min. The solution was allowed to stir 1 h at rt. TLC showed the reaction was complete. The reaction was quenched by addition of the saturated aqueous NH4Cl (800 mL) at 0° C. The reaction mixture was extracted with EtOAc (1 L×3). The combined organic layers were washed with water and brine successively, dried over Na2SO4, filtered and concentrated under reduced pressure to give the crude product, which was purified by flash column on silica gel, rinsing with DCM. This solution was concentrated to obtain a solid. The orange solid was triturated with a small amount of EtOAc and filtered, rinsing with diethyl ether to give the product (240.1 g, 67.0%, three batches combined). 1H NMR (400 MHz, DMSO-d6) δ ppm 13.70 (s, 1H), 8.52 (dd, J=0.8, 4.8 Hz, 0.3H), 8.34 (dd, J=0.8, 5.2 Hz, 1H), 8.27 (s, 0.4H), 8.10 (s, 1H), 7.47 (t, J=8.0 Hz, 1.4H), 7.22-7.12 (m, 1.8H), 6.96 (s, 1.4H), 6.85 (d, J=4.2 Hz, 1H), 6.07 (s, 1H), 5.97-5.86 (m, 1.4H), 5.32 (d, J=15.6 Hz, 1.4H), 5.24 (d, J=6.4 Hz, 1.4H), 4.64 (d, J=6.0 Hz, 2.8H), 4.38 (d, J=2.8 Hz, 0.8H).

reactant | methyl 3-(allyloxycarbonylamino)-2-fluorobenzoate | 342 mmol, 86.7 g, 1 eq | C(C=C)OC(=O)NC=1C(=C(C(=O)OC)C=CC1)F | C12H12FNO4
reactant | LiHMDS | 1198 mmol, 1M, 1198 mL, 3.5 eq | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
reactant | pyrimidine chloride | 376 mmol, 48.0 g, 1.2 eq | [Cl-].N1=CN=CC=C1
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
product | 2-Propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}carbamate | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C16H13ClFN3O3
